US05760216
4-Aminoantipyrine (0.12 mmol, Aldrich) and octachloro-octachloro tetrasulfonato Fe(III) porphyrin (0.6 μmol) were dissolved in 4 ml of pH 7 phosphate buffer and cooled to 0° C. To this was added iodosobenzene (66 mg, 0.3 mmol) was added in portions over 10 min. The reaction was stirred for 4 hr and extracted with 3×2 ml of methylene chloride and dried over Na2CO3. The organic layer was chromatographed over silica gel, eluting with methylene chloride, to yield 2,3-dimethyl-4-hydroxyamino-1-phenyl-3-pyrazolin-5-one (AP-3) in 30% yield.

reactant | 4-Aminoantipyrine | 0.12 mmol | CC1=C(C(=O)N(N1C)C=2C=CC=CC2)N | C11H13N3O
reactant | iodosobenzene | 0.3 mmol, 66 mg | I(=O)C1=CC=CC=C1 | C6H5IO
solvent | phosphate | 4 ml, pH 7 | P(=O)([O-])([O-])[O-]
product | 2,3-dimethyl-4-hydroxyamino-1-phenyl-3-pyrazolin-5-one | 30% yield | CN1N(C(C(=C1C)NO)=O)C1=CC=CC=C1 | C11H13N3O2
